US06265349B1
Preparation of 5-(2,4-dichlorophenyl)-1-methyl-2-trifluoromethyl-4(1H)-pyridone (Compound No. 6-3)
4.1 g (10.4 mmol) of 5-(2,4-dichlorophenyl)-3-ethoxycarbonyl-1-methyl-2-trifluoromethyl-4(1H)-pyridone was dissolved in 100 ml of dichloromethane, and 10 ml of a dichloromethane solution of 3N boron tribromide was dropwise added thereto under cooling to −60° C. After stirring at room temperature for 3 hours, the reaction solution was poured into ice water, and precipitated crystals were collected by filtration and washed with water. They were dried under reduced pressure to obtain crude crystals. To 50 ml of quinoline, the crude crystals and 0.04 g (0.6 mmol) of copper were added, followed by stirring at 170° C. for 1 hour. This reaction solution was poured into water, and precipitated crude crystals were collected by filtration. The crude crystals were dissolved in a small amount of DMF, and insoluble matters were filtered off. Then, the filtrate was poured into water, and precipitated crystals were collected by filtration. The crystals were washed with water and then dried to obtain 0.9 g (yield: 26%) of the desired product. Melting point: 205-206° C.

reactant | 5-(2,4-dichlorophenyl)-3-ethoxycarbonyl-1-methyl-2-trifluoromethyl-4(1H)-pyridone | 10.4 mmol, 4.1 g | ClC1=C(C=CC(=C1)Cl)C=1C(C(=C(N(C1)C)C(F)(F)F)C(=O)OCC)=O | C16H12Cl2F3NO3
reactant | boron tribromide | 3N | B(Br)(Br)Br | BBr3
reactant | quinoline | 50 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | copper | 0.6 mmol, 0.04 g | [Cu] | Cu
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-(2,4-dichlorophenyl)-1-methyl-2-trifluoromethyl-4(1H)-pyridone | 0.9 g, yield: 26% | ClC1=C(C=CC(=C1)Cl)C=1C(C=C(N(C1)C)C(F)(F)F)=O | C13H8Cl2F3NO
